// clk_div: Clock divider by ratio
simulator lang=spectre
global 0

ahdl_include "clk_div.va"

// Input clock: 1GHz
Vclk (clk_in 0) vsource type=pulse val0=0 val1=0.9 period=1n delay=0.1n rise=50p fall=50p width=450p

IDUT (clk_in clk_out) clk_div ratio=4 vdd=0.9 tt=10p td=0

tran tran stop=100n maxstep=100p
save clk_in:2e clk_out:2e
